US08293925B2
NaH (60% dispersed in mineral oil, 260 mg, 5.41 mmol) was added slowly to a cooled (0° C.) solution of 1-(2,6-dimethylphenyl)-3-hydroxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (prepared in the above examples, 1 g, 3.61 mmol) in THF (10 mL). After stirring for 5 min, PMBCl (737 μL, 5.41 mmol) was added and the resulting reaction mixture was slowly warmed to room temperature and stirred further for 2 h. Saturated aqueous NH4Cl solution (10 mL) was added, and the solution was extracted with EtOAc (3×25 mL). The combined organic layers were washed with water (30 mL), brine (30 mL), dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (SiO2, 10→60% EtOAc/hexanes) to give 1-(2,6-dimethyl-phenyl)-3-(4-methoxy-benzyloxymethyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (767 mg, 54% yield). LC-MS: Rt (retention time): 2.37 min, MS: (ES) m/z 398.3 (M+H+).

reactant | NaH | 5.41 mmol, 260 mg | [H-].[Na+]
reactant | 1-(2,6-dimethylphenyl)-3-hydroxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)CO | C15H19NO4
reactant | PMBCl | 5.41 mmol, 737 μL | COC1=CC=C(C=C1)CCl | C8H9ClO
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2,6-dimethyl-phenyl)-3-(4-methoxy-benzyloxymethyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 767 mg, 54% yield | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)COCC1=CC=C(C=C1)OC | C23H27NO5
